US07129239B2
Preparation of 9-(4-Chlorophenyl)-8-(2-fluorophenyl)-2-methyl-6-(4-methylpiperazin-1-yl)-9H-purine (11A-1)
A solution of 1-methylpiperazine (200 μl) in ethanol (0.8 ml) was added to 6-chloro-9-(4-chlorophenyl)-8-(2-fluorophenyl)-2-methyl-9H-purine I-(11A-1)c (24 mg, 0.06 mmol) and placed on a 60° C. shaker apparatus for 30 minutes. The reaction was loaded directly onto a TLC preparative plate for purification using 10% methanol/ethyl acetate as the solvent to obtain the desired title compound 11A-1: +ESI MS (M+1) 465. A solution of the material in methylene chloride/methanol was treated with excess 1 N HCl in diethyl ether, stirred, evaporated to dryness, and then triturated in diethyl ether to afford the hydrochloride salt of compound 11A-1 (35 mg, quantitative): +ESI MS (M+1) 437.2; 1H NMR (400 MHz, CD3OD) δ 7.70–7.25 (br m, 7H), 7.09 (t, J=9.1 Hz, 1H), 5.80 (br s, 2H), 3.74 (br s, 4H), 3.36 (br s, 2H), 2.99 (s, 3H), 2.64 (s, 3H).

reactant | 1-methylpiperazine | 200 μl | CN1CCNCC1 | C5H12N2
reactant | 6-chloro-9-(4-chlorophenyl)-8-(2-fluorophenyl)-2-methyl-9H-purine | 0.06 mmol, 24 mg | ClC1=C2N=C(N(C2=NC(=N1)C)C1=CC=C(C=C1)Cl)C1=C(C=CC=C1)F | C18H11Cl2FN4
solvent | ethanol | 0.8 ml | C(C)O | C2H6O
product | 9-(4-Chlorophenyl)-8-(2-fluorophenyl)-2-methyl-6-(4-methylpiperazin-1-yl)-9H-purine | ClC1=CC=C(C=C1)N1C2=NC(=NC(=C2N=C1C1=C(C=CC=C1)F)N1CCN(CC1)C)C | C23H22ClFN6
